US07205307B2
2.2d Preparation of N-(2-chloropyrimidin-5-yl)-3,4-difluorobenzamide
A solution of 450 g (3.49 mol) of 5-amino-2-chloropyrimidine and 790 g (6.98 mol) of triethylamine in anhydrous THF was cooled to less than 5° C. in an ice bath. To this solution was added 3,4-difluorobenzoyl chloride at a rate (2 h) that maintained the temperature of the reaction mixture below 10° C. Once the addition was complete the reaction was monitored for full conversion of the starting material to product by HPLC. Following confirmation of complete conversion, the reaction mixture was concentrated under reduced pressure. The viscous residue was dissolved in ethyl acetate (4 L) and washed with water (4 L) and 2M HCl (4 L). The organic layer was separated, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The resulting solid was dissolved in ethanol (4 L) and 250 g of charcoal was added. The mixture was heated to reflux for 10 minutes and filtered through a bed of Celite® and the filtrate was concentrated under reduced pressure. The solids were recrystallized twice from acetonitrile (1 L) to yield 580 g (61.8%) of the desired product as an off-white solid.

reactant | 5-amino-2-chloropyrimidine | 3.49 mol, 450 g | NC=1C=NC(=NC1)Cl | C4H4ClN3
reactant | triethylamine | 6.98 mol, 790 g | C(C)N(CC)CC | C6H15N
reactant | 3,4-difluorobenzoyl chloride | FC=1C=C(C(=O)Cl)C=CC1F | C7H3ClF2O
solvent | THF | C1CCOC1 | C4H8O
product | N-(2-chloropyrimidin-5-yl)-3,4-difluorobenzamide | 580 g, 61.8% | ClC1=NC=C(C=N1)NC(C1=CC(=C(C=C1)F)F)=O | C11H6ClF2N3O
